US06166064
Benzene-1,3-disulfonic acid tert-butyl-amide cyclobutylamide
Using a procedure similar to that described in Preparation E, 4 ml of cyclobutylamine was added to 1 gram (3.9 mmole) of 3-tert-butylsulfamoyl-benzenesulfonyl chloride to give 813 mg of the titled compound.

reactant | cyclobutylamine | 4 ml | C1(CCC1)N | C4H9N
reactant | 3-tert-butylsulfamoyl-benzenesulfonyl chloride | 3.9 mmole, 1 gram | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)Cl | C10H14ClNO4S2
product | Benzene-1,3-disulfonic acid tert-butyl-amide cyclobutylamide | 813 mg | C1(CCC1)NS(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)NC(C)(C)C | C14H22N2O4S2
